US06979695B2
N-(1-Penten-4-yl)phthalimide
To a stirred solution of 4-penten-2-ol (5.00 g, 58.1 mmol), phthalimide (8.55 g, 58.1 mmol), and triphenylphosphine (15.2 g, 58.1 mmol) in THF (40 mL), at 0° C. under nitrogen, was added a solution of diethyl azodicarboxylate (10.1 g, 58.1 mmol) in THF (20 mL) dropwise. The mixture was stirred at 0° C. (12 h) and then at 25° C. (12 h). The mixture was diluted with water and extracted three times with chloroform. The chloroform extracts were dried (Na2SO4), evaporated and column chromatographed on Merck silica gel 60 (70-230 mesh) with chloroform to give 8.77 g (70.2% yield) of colorless oil.

reactant | 4-penten-2-ol | 58.1 mmol, 5.00 g | CC(CC=C)O | C5H10O
reactant | phthalimide | 58.1 mmol, 8.55 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 58.1 mmol, 15.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 58.1 mmol, 10.1 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(1-Penten-4-yl)phthalimide | 8.77 g, 70.2% yield | C=CCC(C)N1C(C=2C(C1=O)=CC=CC2)=O | C13H13NO2
